US06194574B1
A. 2-(2-Pyridinyl)-2-(2,4,6-trimethylphenyl)ethanenitrile
A mixed solution of 2-(2,4,6-trimethylphenyl)ethanenitrile (20 g; 0.126 mol) and 2-bromopyridine (35 g; 0.22 mol) in DMSO (25 mL) is added to a solution of potassium t-butoxide (35 g; 0.31 mol) dissolved in DMSO (125 mL) dropwise slowly over a 1-hour period. After the addition, the mixture is further stirred for 4 hours at room temperature and then slowly poured into a stirred, ice-cold solution of ammonium chloride with vigorous stirring. The resulting tan precipitate is filtered, pressed, washed with methanol, and air-dried to give 20 g of the title compound as a pale yellow solid (67%): 1H nmr (400 MHz, CDCl3) d 2.30 (s, 6 H), 2.32 (s, 3 H), 5.76 (s, 1 H), 6.93 (s, 2 H), 7.12 (d, 1 H), 7.21 (dd, 1 H), 7.63 (t, 1 H), 8.63 (d, 1 H).

reactant | 2-(2,4,6-trimethylphenyl)ethanenitrile | 0.126 mol, 20 g | CC1=C(C(=CC(=C1)C)C)CC#N | C11H13N
reactant | 2-bromopyridine | 0.22 mol, 35 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium t-butoxide | 0.31 mol, 35 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | DMSO | 125 mL | CS(=O)C | C2H6OS
product | 2-(2-Pyridinyl)-2-(2,4,6-trimethylphenyl)ethanenitrile | 20 g, 67% | N1=C(C=CC=C1)C(C#N)C1=C(C=C(C=C1C)C)C | C16H16N2
